2126-11-10 23:59:00 Physician Attending Progress Note
Chief Complaint: fevers, leukocytosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53M severe COPD - fractured his right elbow [**9-18**] and underwent external
   fixation. Returns to the hospital because of persistent vomiting and
   diarrhea at rehab. Has been on gent and PO vanco for recent pseudomonas
   pneumonia and CDiff. Also concern about a broken external fixation
   devise.
   In ER Temp was 102.3 and WBC count 26. Pins were noted to be missing
   from his right arm and ortho is taking him back to the OR to replace
   these. A CXR showed stable effusions and opacities.
   History obtained from housestaff
   Patient unable to provide history: on vent
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-11-10**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2126-11-10**] 11:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 109 (98 - 112) bpm
   BP: 107/70(78) {92/59(64) - 107/71(78)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
             1,768 mL
   PO:
             TF:
   IVF:
   768 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    650 mL
   Urine:
   250 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,118 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.41/52/112/33/7
   Ve: 8.3 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : bases), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: right arm external fixation
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   354 K/uL
   86 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.4 mEq/L
   8 mg/dL
   102 mEq/L
   141 mEq/L
   29.2 %
   21.3 K/uL
        [image002.jpg]
                             [**2126-11-10**]  07:17 PM
                             [**2126-11-10**]  11:17 PM
   WBC
   21.3
   Hct
   29.2
   Plt
   354
   Cr
   0.6
   TCO2
   34
   Glucose
   86
   Other labs: PT / PTT / INR:16.0/32.7/1.4, ALT / AST:[**11-23**], Alk Phos / T
   Bili:96/0.3, Differential-Neuts:87.4 %, Lymph:7.1 %, Mono:5.3 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL, Mg++:1.4 mg/dL,
   PO4:3.5 mg/dL
   Imaging: CXR bilateral effusions, basilar opacities, no change
   elbow x-ray - Stable position of external fixator without evidence of
   hardware complication
   Microbiology: awaiting cultures
   ECG: NSR 100, no ischemia
   Assessment and Plan
   fever, leukocytosis - likely sources include resp tract, UTI, CDiff,
   line infection. Right arm fracture seems less likely. Will continue abx
   broken external fixator - to OR tomorrow
   vomiting, diarrhea, possible ileus - continue PEG drainage for now,
   will retry TFs once surgery complete, treat CDiff as above
   resp failure - cont current vent settings
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2126-11-10**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2126-11-11 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2126-11-10**] 06:30 PM
 MIDLINE - START 11/0
   [**1-/2126**] 07:00 PM
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-11-10**] 06:00 PM
   Gentamicin - [**2126-11-11**] 12:00 AM
   Piperacillin - [**2126-11-11**] 12:31 AM
   Metronidazole - [**2126-11-11**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-11**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.5
   HR: 73 (73 - 117) bpm
   BP: 108/72(46) {92/50(46) - 114/78(85)} mmHg
   RR: 16 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,800 mL
                                                                    850 mL
   PO:
             TF:
   IVF:
                                                                    800 mL
                                                                    850 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    280 mL
   Urine:
                                                                    250 mL
                                                                    280 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,150 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/52/112/33/7
   Ve: 7.2 L/min
   PaO2 / FiO2: 224
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   8.7 g/dL
   86 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.4 mEq/L
   8 mg/dL
   102 mEq/L
   141 mEq/L
   29.2 %
   21.3 K/uL
        [image002.jpg]
                             [**2126-11-10**]  07:17 PM
                             [**2126-11-10**]  11:17 PM
   WBC
   21.3
   Hct
   29.2
   Plt
   354
   Cr
   0.6
   TCO2
   34
   Glucose
   86
   Other labs: PT / PTT / INR:16.0/32.7/1.4, ALT / AST:[**11-23**], Alk Phos / T
   Bili:96/0.3, Differential-Neuts:87.4 %, Lymph:7.1 %, Mono:5.3 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL, Mg++:1.4 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   Assessment and Plan:
   53 yo m with hx of severe COPD, s/p trach, and recent prolonged
   hospitalizzation after a mechanical fall resulting in R radius and
   ulnar fracture s/p external fixation complicated by PEA arrest after
   trach change, COPD exacerbation, VAP, C. diff colitis, clinical
   seizures though negative EEG, and altered mental status who presents
   with worsening wrist pain.
   .
   # Leukocytosis/fever:  Possible sources include pneumonia, C. diff,
   UTI, R arm,and midline.  His trach site has some purulence and is
   tender to palpation.  He has a history of pseudomonas pneumonia.  CXR
   shows...  It is unclear if he is still on po vanc and it is not on his
   med list.  Original stop date was [**10-30**].  His sxs are mainly GI.  UCx
   is reportedly growing ESBL E. coli, but no sensitivities are given.
   His external fixation has broken though there is no inflammation at the
   site.  Finally, midline site appears clean.
   - UCx, endotracheal culture, BCx
   - check C. diff
   - Zosyn/gent to cover pseudomonas and ESBL E. coli
   - Vanc to cover HAP, skin infection from arm
   - Flagyl/po vanc for C. diff infection pending return of toxin
   .
   # Respiratory failure:  Patient is trach-dependent from COPD.
   Currently, vent settings are AC 500x16, PEEP 5.  ABG on this setting is
   7.41/52/112.  Pt likely has HAP, known to have Pseudomonas.
   - cont. AC support for now
   - endotracheal culture
   - treat HAP with vanc/zosyn/gent for now
   .
   # N/V/D:  [**Hospital 10724**] rehab notes regarding possible ileus on KUB.
   High NG tube output.  No diarrhea here yet.  Has h/o C. diff.  No
   ischemic changes on EKG.
   - KUB
   - check C. diff
   - NGT to suction
   - convert to IV meds as possible
   .
   # R ulna/radius fracture, s/p external fixation on [**10-7**]:
   - Orthopedics to fix external fixation, add on case for tomorrow
   - pain control with IV morphine as needed, apparently has been off
   fentanyl and oxycodone at rehab
   - cont. calcium and vitamin D
   - DVT ppx with Fondaparinux (not getting at rehab)
   .
   # Hypercarbic Respiratory Failure:  Pt is trach-dependent.
   - check ABG
   .
   #  Chronic Obstructive Lung Disease:  He is
   on steroids chronically.
   - check ABG
   - cont. current dose of prednisone 7 mg, switch to IV formulation,
   .
   # Seizure:  Neurology felt that the patient had clinical seizures
   although his EEG did not show any epileptiform activity.
   - cont. Keppra
   .
   # Fungal rash on back:
   - cont. antifungal cream
   .
   # Diabetes:
   - cont. home ISS.
   .
   # Iron deficiency anemia:
   - cont. on iron supplements.
   .
   # ???Anxiety/Agitation:  On klonopin and haldol at rehab
   - hold Klonopin for now, should be fine given long half-life
   - hold haldol for now, may use prn
   .
   # FEN:  TFs by PEG current on hold due to ?ileus
   # PPx:  Fondaparinux, PPI
   # Access:  Midline
   # FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Midline - [**2126-11-10**] 07:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-11 10:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Ortho removed broken pin and packed wound. Recommending PT for
   splinting and OT for range of motion.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2126-11-11**] 12:00 AM
   Piperacillin - [**2126-11-11**] 12:31 AM
   Metronidazole - [**2126-11-11**] 02:00 AM
   Vancomycin - [**2126-11-11**] 09:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   PO vanc, Fondeparinoux, PPI, Atrovent, Docusate/[**Last Name (LF) **], [**First Name3 (LF) 369**], vit D,
   Keppra, Insulin, Steroids 6mg IV q24
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-11**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 90 (73 - 117) bpm
   BP: 103/69(77) {92/50(46) - 120/83(90)} mmHg
   RR: 16 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,800 mL
                                                                  1,050 mL
   PO:
             TF:
   IVF:
                                                                    800 mL
                                                                  1,050 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    420 mL
   Urine:
                                                                    250 mL
                                                                    420 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,150 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/52/112/33/7
   Ve: 9.1 L/min
   PaO2 / FiO2: 224
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   354 K/uL
   86 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.4 mEq/L
   8 mg/dL
   102 mEq/L
   141 mEq/L
   29.2 %
   21.3 K/uL
        [image002.jpg]
                             [**2126-11-10**]  07:17 PM
                             [**2126-11-10**]  11:17 PM
   WBC
   21.3
   Hct
   29.2
   Plt
   354
   Cr
   0.6
   TCO2
   34
   Glucose
   86
   Other labs: PT / PTT / INR:16.0/32.7/1.4, ALT / AST:[**11-23**], Alk Phos / T
   Bili:96/0.3, Differential-Neuts:87.4 %, Lymph:7.1 %, Mono:5.3 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL, Mg++:1.4 mg/dL,
   PO4:3.5 mg/dL
   Imaging: CXR - B/l effusions. Similar to [**10-23**].
   Microbiology: Urine [**10-22**] - ESBL E. coli, Sputum [**10-22**] - PsA, Sputum
   [**11-10**] contaminated, Blood/urine [**11-10**] pending. [**11-10**] U/A unremarkable.
   Assessment and Plan
   53 yo m with hx of severe COPD, s/p trach, and recent prolonged
   hospitalizzation after a mechanical fall resulting in R radius and
   ulnar fracture s/p external fixation complicated by PEA arrest after
   trach change, COPD exacerbation, VAP, C. diff colitis, clinical
   seizures though negative EEG, and altered mental status who presents
   with worsening wrist pain and fevers.
   # Leukocytosis/fever:  Possible sources include pneumonia, C. diff,
   UTI, R arm,and midline.  His trach site has some purulence and is
   tender to palpation.  He has a history of pseudomonas pneumonia.  CXR
   shows...  It is unclear if he is still on po vanc and it is not on his
   med list.  Original stop date was [**10-30**].  His sxs are mainly GI.  UCx
   is reportedly growing ESBL E. coli, but no sensitivities are given.
   His external fixation has broken though there is no inflammation at the
   site.  Finally, midline site appears clean.
   - UCx, endotracheal culture, BCx
   - check C. diff
   - Zosyn/gent to cover pseudomonas and ESBL E. coli
   - Vanc to cover HAP, skin infection from arm
   - Flagyl/po vanc for C. diff infection pending return of toxin
   # Respiratory failure:  Patient is trach-dependent from COPD.
   Currently, vent settings are AC 500x16, PEEP 5.  ABG on this setting is
   7.41/52/112.  Pt likely has HAP, known to have Pseudomonas.
   - cont. AC support for now
   - endotracheal culture
   - treat HAP with vanc/zosyn/gent for now
   # N/V/D:  [**Hospital 10724**] rehab notes regarding possible ileus on KUB.
   High NG tube output.  No diarrhea here yet.  Has h/o C. diff.  No
   ischemic changes on EKG.
   - KUB
   - check C. diff
   - NGT to suction
   - convert to IV meds as possible
   # R ulna/radius fracture, s/p external fixation on [**10-7**]:
   - Orthopedics to fix external fixation, add on case for tomorrow
   - pain control with IV morphine as needed, apparently has been off
   fentanyl and oxycodone at rehab
   - cont. calcium and vitamin D
   - DVT ppx with Fondaparinux (not getting at rehab)
   # Hypercarbic Respiratory Failure:  Pt is trach-dependent.
   - check ABG
   #  Chronic Obstructive Lung Disease:  He is
   on steroids chronically.
   - check ABG
   - cont. current dose of prednisone 7 mg, switch to IV formulation,
   # Anxiety/Agitation:  On klonopin and haldol at rehab
   - hold Klonopin for now, should be fine given long half-life
   - hold haldol for now, may use prn
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2126-11-10**] 07:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2126-11-12 07:20:00 Physician Resident Progress Note
Chief Complaint: broken external fixation
   24 Hour Events:
 STOOL CULTURE - At [**2126-11-12**] 04:39 AM
   CDIFF
   OSH cultures
   Urine culture [**11-5**] -[**Numeric Identifier **] Ecoli, ESBL
   Sensitive to Cefotetan, imipenem, nitrofurantoin, amikacin
   .
   Arm x-ray: the external fixation has. Large joint effusion seen. There
   is some displacement of the olecranon from the fossa, consistent with
   dislocation.
   .
   started on tube feeds
   did well on pressure support -weaned down to FiO2 of 40%
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2126-11-11**] 12:31 AM
   Gentamicin - [**2126-11-11**] 10:00 PM
   Metronidazole - [**2126-11-12**] 02:00 AM
   Meropenem - [**2126-11-12**] 06:00 AM
   Vancomycin - [**2126-11-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-11-11**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-12**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 82 (76 - 111) bpm
   BP: 131/74(88) {89/52(61) - 133/83(90)} mmHg
   RR: 19 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,115 mL
                                                                    720 mL
   PO:
             TF:
                                                                    155 mL
                                                                    216 mL
   IVF:
                                                                  1,730 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    290 mL
   Urine:
                                                                    840 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,275 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (383 - 574) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 200
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 9.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   400 K/uL
   9.4 g/dL
   95 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.0 mEq/L
   7 mg/dL
   102 mEq/L
   142 mEq/L
   30.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2126-11-10**]  07:17 PM
                             [**2126-11-10**]  11:17 PM
                             [**2126-11-12**]  04:29 AM
   WBC
   21.3
   13.6
   Hct
   29.2
   30.4
   Plt
   354
   400
   Cr
   0.6
   0.6
   TCO2
   34
   Glucose
   86
   95
   Other labs: PT / PTT / INR:16.0/32.7/1.4, ALT / AST:[**11-23**], Alk Phos / T
   Bili:96/0.3, Differential-Neuts:87.4 %, Lymph:7.1 %, Mono:5.3 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
 RISK FOR INJURY
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 NAUSEA / VOMITING
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   53 yom with hx of severe COPD, s/p trach, and recent prolonged
   hospitalizzation after a mechanical fall resulting in R radius and
   ulnar fracture s/p external fixation complicated by PEA arrest after
   trach change, COPD exacerbation, VAP, C. diff colitis, clinical
   seizures though negative EEG, and altered mental status who presented
   with worsening wrist pain also found to be febrile.
   .
   # Leukocytosis/fever:  CXR in ED similar to previous CXR on prior
   admission.  Patient continued with diarrhea at rehab so C.Diff seems to
   be the likely source.  Patient was on Vanco PO at rehab, Flagyl IV was
   added yesterday.  Urine culture from [**Hospital 12**] rehab is growing ESBL
   E.Coli.  Per our sensitivities, this is Genamycin resistant.  Will
   treat with Meropenem.
   - f/u Urine culture, blood culture
   - check C. diff
   - Meropenem to cover ESBL E. coli
   - D/C Vanco IV and Gentamycin IV
   - cont Flagyl IV and Vanco PO for refractory C. diff infection
   - f/u final KUB read
   - restart PO meds
   .
   # Respiratory failure:  Patient is trach-dependent from COPD.   He has
   been on AC while at [**Hospital 12**] Rehab.  Will attempt to wean here
   - cont. AC support for now
   - attempt to wean to PS
   # R ulna/radius fracture, s/p external fixation on [**10-7**]: Ortho removed
   external fixator today
   - f/u Xray
   - pain control with IV morphine as needed, was on fentanyl and
   oxycodone at rehab
   - cont. calcium and vitamin D
   - DVT ppx with Fondaparinux (not getting at rehab)
   .
   # Hypercarbic Respiratory Failure:  Pt is trach-dependent.
   - cont AC ventilation, attempt to wean as above
   .
   #  Chronic Obstructive Lung Disease:  He is
   on steroids chronically.
   - change IV steroids back to PO
   - nebs PRN
   .
   # Seizure:  Neurology felt that the patient had clinical seizures
   although his EEG did not show any epileptiform activity.
   - cont. Keppra
   .
   # Fungal rash on back:
   - cont. antifungal cream
   .
   # Diabetes:
   - cont. home ISS.
   .
   # Iron deficiency anemia:
   - cont. on iron supplements.
   .
   # Anxiety/Agitation:  On klonopin and haldol at rehab, no signs of
   agitation here
   - hold Klonopin and haldol for now, restart if needed
   .
   # FEN:  Nutrition consult,  restart TFs
   # PPx:  Fondaparinux, PPI
   # Access:  Midline
   # FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Midline - [**2126-11-10**] 07:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2126-11-12 10:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Placed on PS
   - Ortho consult
   - TF restarted
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2126-11-11**] 12:31 AM
   Gentamicin - [**2126-11-11**] 10:00 PM
   Metronidazole - [**2126-11-12**] 02:00 AM
   Meropenem - [**2126-11-12**] 06:00 AM
   Vancomycin - [**2126-11-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-11-11**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-12**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 86 (76 - 111) bpm
   BP: 148/78(95) {89/52(61) - 148/78(95)} mmHg
   RR: 27 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,115 mL
                                                                    976 mL
   PO:
             TF:
                                                                    155 mL
                                                                    340 mL
   IVF:
                                                                  1,730 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    490 mL
   Urine:
                                                                    840 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,275 mL
                                                                    486 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 412 (383 - 574) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 200
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   400 K/uL
   95 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.0 mEq/L
   7 mg/dL
   102 mEq/L
   142 mEq/L
   30.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2126-11-10**]  07:17 PM
                             [**2126-11-10**]  11:17 PM
                             [**2126-11-12**]  04:29 AM
   WBC
   21.3
   13.6
   Hct
   29.2
   30.4
   Plt
   354
   400
   Cr
   0.6
   0.6
   TCO2
   34
   Glucose
   86
   95
   Other labs: PT / PTT / INR:16.0/32.7/1.4, ALT / AST:[**11-23**], Alk Phos / T
   Bili:96/0.3, Differential-Neuts:87.4 %, Lymph:7.1 %, Mono:5.3 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.7 mg/dL
   Imaging: CXR - Unchanged.
   Microbiology: Urine negative. Blood pending. C. diff pending.
   Assessment and Plan
   53 yo m with hx of severe COPD, s/p trach, and recent prolonged
   hospitalizzation after a mechanical fall resulting in R radius and
   ulnar fracture s/p external fixation complicated by PEA arrest after
   trach change, COPD exacerbation, VAP, C. diff colitis, clinical
   seizures though negative EEG, and altered mental status who presents
   with worsening wrist pain and fevers.
   # Leukocytosis/fever:  Most likely from UTI or C. diff.  His sxs are
   mainly GI.  UCx from rehab is reportedly growing ESBL E. coli, but no
   sensitivities are given.  Possible other sources include pneumonia (h/o
   PsA), R arm,and midline.  CXR at baseline.  His external fixation has
   broken though there is no inflammation at the site.  Finally, midline
   site appears clean.
   - F/U cultures / C. diff
   - [**Last Name (un) **] to cover ESBL E. coli
   - Flagyl/po vanc for C. diff infection pending return of toxin
   # Respiratory failure:  Patient is trach-dependent from COPD and on
   chronic steroids.  Currently, vent settings are AC 50/16/5/0.5.  ABG on
   this setting is 7.41/52/112.
   - Cont. AC support for now  - try PS today, if tolerated TC tomorrow
   - Cont. current dose of prednisone 7 mg, switch to IV formulation for
   now
   # N/V/D:  [**Hospital 10724**] rehab notes regarding possible ileus on KUB.
   High NG tube output.  No diarrhea here yet.  Has h/o C. diff.  KUB
   without ileus.
   - Resume NGT feeds and PO meds as tolerated
   # R ulna/radius fracture, s/p external fixation on [**10-7**]:  Orthopedics
   removed external fixation and now recommending splinting.
   - OT/PT today
   - Cont. calcium and vitamin D
   - DVT ppx with Fondaparinux (not getting at rehab)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-11-11**] 04:15 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2126-11-10**] 07:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2126-11-13 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Weaned to Pressure Support yesterday.  Was placed on Trach collar but
   became tachypneic, was then restarted on PS.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2126-11-11**] 12:31 AM
   Vancomycin - [**2126-11-12**] 06:00 AM
   Gentamicin - [**2126-11-12**] 10:00 PM
   Meropenem - [**2126-11-13**] 12:00 AM
   Metronidazole - [**2126-11-13**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-13**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.3
C (97.4
   HR: 92 (86 - 112) bpm
   BP: 140/63(80) {109/60(73) - 148/87(97)} mmHg
   RR: 33 (11 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,263 mL
                                                                    652 mL
   PO:
             TF:
                                                                    813 mL
                                                                    289 mL
   IVF:
                                                                  1,090 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    310 mL
   Urine:
                                                                  1,000 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,263 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (284 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 175
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 8.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   400 K/uL
   9.4 g/dL
   95 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.0 mEq/L
   7 mg/dL
   102 mEq/L
   142 mEq/L
   30.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2126-11-10**]  07:17 PM
                             [**2126-11-10**]  11:17 PM
                             [**2126-11-12**]  04:29 AM
   WBC
   21.3
   13.6
   Hct
   29.2
   30.4
   Plt
   354
   400
   Cr
   0.6
   0.6
   TCO2
   34
   Glucose
   86
   95
   Other labs: PT / PTT / INR:16.0/32.7/1.4, ALT / AST:[**11-23**], Alk Phos / T
   Bili:96/0.3, Differential-Neuts:87.4 %, Lymph:7.1 %, Mono:5.3 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
 RISK FOR INJURY
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 NAUSEA / VOMITING
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   53 yom with hx of severe COPD, s/p trach, and recent prolonged
   hospitalizzation after a mechanical fall resulting in R radius and
   ulnar fracture s/p external fixation complicated by PEA arrest after
   trach change, COPD exacerbation, VAP, C. diff colitis, clinical
   seizures though negative EEG, and altered mental status who presented
   with worsening wrist pain also found to be febrile.
   .
   # Leukocytosis/fever:  Presumed source is C.diff.  Patient on Vanco PO,
   Flagyls was added in the ICU.  Leukocytosis now improving.  No fevers
   overnight
   - f/u blood culture
   - f/u for C. diff
   - Meropenem to cover ESBL E. coli
   - cont Flagyl IV and Vanco PO for refractory C. diff infection
   .
   # Respiratory failure:  Patient is trach-dependent from COPD.   He has
   been on AC while at [**Hospital 12**] Rehab.  Was weaned to pressure support
   overnight, placed on trach collar for 25 minutes tonight
   - cont. PS support for now
   - attempt to wean to trach collar tomorrow
   # R ulna/radius fracture, s/p external fixation on [**10-7**]: Ortho removed
   external fixator yesterday. Will obtain wrist film today
   - f/u Xray
   - pain control with IV morphine as needed
   - cont. calcium and vitamin D
   - DVT ppx with Fondaparinux
   .
   # Hypercarbic Respiratory Failure:  Pt is trach-dependent.
   - cont PS ventilation, attempt to wean as above
   .
   #  Chronic Obstructive Lung Disease:  He is
   on steroids chronically.
   - cont Prednisone daily
   - nebs PRN
   .
   # Seizure:  Patient with seizures on last admission
   - cont. Keppra
   .
   # Fungal rash on back:
   - cont. antifungal cream
   .
   # Diabetes:
   - cont. home ISS.
   .
   # Iron deficiency anemia:
   - cont. on iron supplements.
   .
   # Anxiety/Agitation:  On klonopin and haldol at rehab, no signs of
   agitation here
   - hold Klonopin and haldol for now, restart if needed
   .
   # FEN:  cont TFs
   # PPx:  Fondaparinux, PPI
   # Access:  Midline
   # FULL CODE
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-11-11**] 04:15 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2126-11-10**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-13 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - TC yesterday but became tachypneic, so placed back on PS
   - Afebrile
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2126-11-11**] 12:31 AM
   Vancomycin - [**2126-11-12**] 06:00 AM
   Gentamicin - [**2126-11-12**] 10:00 PM
   Meropenem - [**2126-11-13**] 12:00 AM
   Metronidazole - [**2126-11-13**] 09:59 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Flagyl, Fondiparineaux, Atrovent, Colace, Senna, Vit D, Tums, iron,
   Asa, RISS, PO vanc, Meropenem, Prednisone, Keppra, Lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-13**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 84 (84 - 112) bpm
   BP: 131/68(81) {109/60(73) - 159/87(97)} mmHg
   RR: 22 (11 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,263 mL
                                                                  1,006 mL
   PO:
             TF:
                                                                    813 mL
                                                                    436 mL
   IVF:
                                                                  1,090 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    570 mL
   Urine:
                                                                  1,000 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,263 mL
                                                                    436 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 549 (284 - 549) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 175
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   431 K/uL
   98 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.0 mEq/L
   5 mg/dL
   102 mEq/L
   143 mEq/L
   27.7 %
   12.2 K/uL
        [image002.jpg]
                             [**2126-11-10**]  07:17 PM
                             [**2126-11-10**]  11:17 PM
                             [**2126-11-12**]  04:29 AM
                             [**2126-11-13**]  05:45 AM
   WBC
   21.3
   13.6
   12.2
   Hct
   29.2
   30.4
   27.7
   Plt
   354
   400
   431
   Cr
   0.6
   0.6
   0.4
   TCO2
   34
   Glucose
   86
   95
   98
   Other labs: PT / PTT / INR:16.0/32.7/1.4, ALT / AST:[**11-23**], Alk Phos / T
   Bili:96/0.3, Differential-Neuts:87.4 %, Lymph:7.1 %, Mono:5.3 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.0 mg/dL
   Imaging: No new imaging.
   Microbiology: C. diff negative.
   Assessment and Plan
   53 yo m with hx of severe COPD, s/p trach, and recent prolonged
   hospitalizzation after a mechanical fall resulting in R radius and
   ulnar fracture s/p external fixation complicated by PEA arrest after
   trach change, COPD exacerbation, VAP, C. diff colitis, clinical
   seizures though negative EEG, and altered mental status who presents
   with worsening wrist pain and fevers.
   # Leukocytosis/fever:  Most likely from UTI or C. diff.  His sxs are
   mainly GI.  UCx from rehab is reportedly growing ESBL E. coli, but no
   sensitivities are given.  Possible other sources include pneumonia (h/o
   PsA), R arm,and midline.  CXR at baseline.  His external fixation has
   broken though there is no inflammation at the site.  Finally, midline
   site appears clean.
   -Appears to be responding to abx as he is afebrile and his leukocytosis
   is resolving
   - F/U cultures / C. diff
   - [**Last Name (un) **] to cover ESBL E. coli
   - Flagyl/po vanc for C. diff infection pending return of toxin
   # Respiratory failure:  Patient is trach-dependent from COPD and on
   chronic steroids.
   - Cont PS wean
 try TC today (?PMV)
   - Cont. current dose of prednisone 7 mg
   # N/V/D:  High NG tube output.  Diarrhea.  Has h/o C. diff.  KUB
   without ileus.
   - Resume NGT feeds and PO meds as tolerated
   - F/U C. diff
   # R ulna/radius fracture, s/p external fixation on [**10-7**]:  Orthopedics
   removed external fixation and now recommending splinting.
   - OT/PT today
   - Cont. calcium and vitamin D
   - DVT ppx with Fondaparinux (not getting at rehab)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-11-11**] 04:15 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2126-11-10**] 07:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 20 minutes